US05530019
Step 1: Preparation of 11-benzyloxycarbonylundecanoic acid
A mixture of 1,10-decanedicarboxylic acid, benzyl bromide and potassium carbonate in N,N-dimethylformamide was stirred at room temperature for 16 hours. The reaction mixture was poured into a mixture of ethyl acetate and diluted hydrochloric acid, and the organic layer was washed with water and brine, dried over magnesium sulfate and concentrated. The residue was chromatographed on a silica gel column to give the object compound.

reactant | 1,10-decanedicarboxylic acid | C(CCCCCCCCCC(=O)O)C(=O)O | C12H22O4
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 11-benzyloxycarbonylundecanoic acid | C(C1=CC=CC=C1)OC(=O)CCCCCCCCCCC(=O)O | C19H28O4
